US04921939
A mixture of 5 g (0.31 mol) of 4-cyanophenyl isothiocyanate, of 3.8 g (0.04 mol) of methylsulfonamide in 50 cm3 of acetone and of 1.6 g (0.04 mol) of sodium hydroxide in 3 cm3 of water is maintained for two hours at room temperature. The precipitate obtained is filtered, washed with acetone and ethyl ether (2×20 cm3). The final solid is then placed in 50 cm3 of 95% ethanol containing 2.75 cm3 (0.044 mol) of methyl iodide. After 24 hours at room temperature, the solution is concentrated to dryness and the residue is washed with ethyl ether (3×20 cm3) and dried in vacuo to produce N-(4-cyanophenyl)-N'-methylsulfonyl-S-methylisothiourea.

reactant | 4-cyanophenyl isothiocyanate | 0.31 mol, 5 g | C(#N)C1=CC=C(C=C1)N=C=S | C8H4N2S
reactant | methylsulfonamide | 0.04 mol, 3.8 g | CS(=O)(=O)N | CH5NO2S
reactant | sodium hydroxide | 0.04 mol, 1.6 g | [OH-].[Na+]
reactant | ethanol | 0.044 mol, 50 cm3 | C(C)O | C2H6O
reactant | methyl iodide | CI | CH3I
solvent | acetone | 50 cm3 | CC(=O)C | C3H6O
solvent | water | 3 cm3 | O | H2O
product | N-(4-cyanophenyl)-N'-methylsulfonyl-S-methylisothiourea | C(#N)C1=CC=C(C=C1)NC(SC)=NS(=O)(=O)C | C10H11N3O2S2
